US07495110B2
Stage 4: methyl-2-[(3,5-dimethoxyphenyl)amino]-1-{3-[methyl(2-pyridin-2-ylethyl) amino]propyl}-1H-benzimidazole-5-carboxylate
3,5 dimethoxyphenylisothiocyanate (571 mg, 1 eq) and diisopropylcarbodiimide (1.35 ml, 4 eq) are added successively to a solution of methyl 3-amino-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzoate (1.0 g, 1 eq) in tetrahydrofuran (10 ml). The mixture is heated under reflux for 18 hours then cooled down to ambient temperature and concentrated under reduced pressure at 40° C. The residue is taken up in ethyl acetate (100 ml) and water (40 ml). After decanting and extracting, the combined organic phases are washed with salt water, dried over Na2SO4 then evaporated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: dichloromethane/methanol 99:1 to 98:2) produces the expected compound in the form of a beige foam (1.12 g; 76% yield).

reactant | 3,5 dimethoxyphenylisothiocyanate | 571 mg, 1 eq | COC=1C=C(C=C(C1)OC)N=C=S | C9H9NO2S
reactant | diisopropylcarbodiimide | 1.35 ml, 4 eq | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | methyl 3-amino-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzoate | 1.0 g, 1 eq | NC=1C=C(C(=O)OC)C=CC1NCCCN(CCC1=NC=CC=C1)C | C19H26N4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | methyl-2-[(3,5-dimethoxyphenyl)amino]-1-{3-[methyl(2-pyridin-2-ylethyl) amino]propyl}-1H-benzimidazole-5-carboxylate | 76% yield | COC(=O)C1=CC2=C(N(C(=N2)NC2=CC(=CC(=C2)OC)OC)CCCN(CCC2=NC=CC=C2)C)C=C1 | C28H33N5O4
